Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ F w PMHx of recent Alzheimer's
diagnosis who presents to ___ ED after being referred in by 
her
cognitive neurologist after examination was concerning for signs
and symptoms of ALS.
Per report, Ms. ___ has been experiencing a progressive
dysarthria, dysphagia, and fractured sleep for the last ___
months. Prior to that, there were some cognitive concerns and a
recent diagnosis of Alzheimer's dementia in ___. Since
then she has been living with her daughter - who is present at
the bedside to report the following history.
Ms. ___ current troubles began with shortness of breath
and trouble lying flat to sleep ~3 months ago. She complained of
pain in her chest and difficulty breathing when flat. Donepezil,
which had been started for AD, was entertained as a cause and
this was discontinued with no improvement in symptoms. Ms.
___ became progressively sleepier and sleepier during the
days, exacerbating her already present cognitive difficulties. 
In the last 2 months, she began to developed slurred speech and
dysphagia. At first her trouble was with thin liquids 
(aspiration
shown on a Barium swallow study) which has now progressed to
difficulty swallowing solids as well. She has been evaluated by
ENT and Pulmonology for her swallowing and respiratory concerns,
without definitive diagnosis. 
Her daughter also reports progressive weakness, more pronounced
in the upper extremities. Ms. ___ has difficulty with her
hands - opening jars and buttoning clothes. Her daughter also
reports that the family noticed fasciculations in the BUEs and
neck last ___ when Ms. ___ was wearing short sleeve
shirts.
Ms. ___ was evaluated in cognitive neurology clinic by Dr.
___ on the day of presentation. He was concerning by her
progressive picture, which seems most consistent with ALS.

 
Past Medical History:
- recent diagnosis of Alzheimer's type dementia
- recent sleep study: no REM sleep
- recent barium swallow: aspiration with thin liquids
- overactive bladder
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION EXAM:
VS T97.2 HR85 BP125/73 RR28 Sat95RA
GEN - elderly woman, head drooped, slurred speech
HEENT - NC/AT, MMM, no ptosis
NECK - weakness of neck flexors 4+/5, extensors strong
CV - RRR
RESP - moderately increased WOB with accessory muscle use, no
retractions, mild tachypnea to RR max of 31
ABD - soft, NT, ND
EXTR - atraumatic, WWP

NEUROLOGICAL EXAMINATION:
MS - Awakes to voice, but will fall asleep without verbal
stimulation. Oriented to self and date. Knows she is in a
hospital but cannot recall the name. Speech is extremely slurred
and difficult to understand, but there do not appear to be
language deficits. Further MS testing is compromised by
difficulty understanding speech. Voice is hypophonic and
enunciation of guttural sounds is quite compromised. No evidence
of apraxia or neglect.

CN - VFF to confrontation. PERRL. EOMI. No ptosis. No reported
diplopia. Facial sensation intact to LT. Face is symmetric at
rest and with activation - though there does appear to be
bilateral bulbar muscle weakness. Hearing intact to voice. 
Palate
with minimal excursion. Hypophonia with relatively more
compromised guttural sounds (haha, gaga). SCMs and traps full
power. Tongue with global atrophy.

MOTOR - Normal bulk. +Fasciculations in the BUEs (delts) and 
neck
muscles. BUEs with deltoid (___), tricep (4+/5) weakness. L ECR
and FEx are 4+/5. BLEs appear grossly full strength, with the
exception of 4+/5 at bilateral IPs.

SENSORY - Grossly intact to LT and temperature throughout.

REFLEXES - Markedly hyperreflexive throughout. 3+ at BUEs and
patellars. +Pec jerks bilaterally. Toes are down going
bilaterally.

COORD - No gross evidence of truncal or appendicular ataxia.

GAIT - Rises unassisted, steadier than expected. Able to take 
few
steps unaided.

 
Pertinent Results:
___ CT Head
1. No acute intracranial process. 
2. Moderate to severe age related involutional changes and 
moderate small 
vessel ischemic changes. 

___ CXR
Low lung volumes accentuate the bronchovascular markings.  
Elevated left 
hemidiaphragm with gas distended stomach and bowel beneath.  
Bibasilar 
atelectasis. 

___ EMG
Abnormal study. Together with the clinical presentation, the 
electrophysiologic findings are most consistent with a 
generalized disorder of motor neurons or their axons, as can be 
seen in amyotrophic lateral sclerosis. However, chronic and 
ongoing left cervical and lumbosacral polyradiculopathies cannot 
be entirely excluded. 
There is incidental evidence for a median neuropathy at the left 
wrist, as in carpal tunnel syndrome. 
Results of repetitive nerve stimulation and short exercise 
testing point away from a disorder of neuromuscular transmission 
such as myasthenia ___.  
 
Brief Hospital Course:
Ms. ___ was admitted to the neurology service for workup of 
neuromuscular disorder as above.

She was admitted to the stepdown unit, however in the morning 
appeared sleepy, with head drop, tachypnea and ABG showing 
hypercarbia to the ___ and hypoxia to the ___. She was 
transferred to the ICU for BiPAP.

ICU COURSE:
No EMG was available on the weekend, and so while in the ICU, 
tensilon test was performed to look for signs of myasthenia 
___. This was positive - neck flexion improved as did eye 
closure strength, although speech remained hypophonic. She was 
then started on mestinon and was uptitrated. A pheresis line was 
placed and the patient received 2 sessions of PLEX. She was 
intermittently on and off BiPAP, with repeated ABGs that showed 
continued hypoxia and hypercarbia. She started developing skin 
breakdown on her nose from the BiPAP mask, which was treated 
with wound care.

EMG was performed (see results section), which established a 
diagnosis of ALS. The tensilon test can be positive in the 
setting of ALS and certain other neurological disorders. 
Mestinon and plasma exchange were discontinued. After discussion 
with the family, the patient was made DNR/DNI.

The patient was acutely worse on the morning of ___, with 
somnolence that did not improve with BiPAP. After further 
discussion with the family and palliative care consult, the 
decision was made to focus on comfort care. She was transferred 
out of the ICU.

In reviewing her outside MRI, her diagnosis of dementia is more 
likely frontotemporal dementia, which can be associated with 
ALS, rather than Alzheimer's dementia.

___ passed away on ___ at 0143AM. She had absent
pupillary responses, no pulses, and she did not have any heart 
or
breath sounds. Her daughter was at the bedside, and she elected
not to pursue an autopsy. The PCP was notified, and the death
certificate was signed. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. trospium 20 mg oral BID 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
ALS
 
Discharge Condition:
Deceased
 
Discharge Instructions:
N/A
 
Followup Instructions:
___